US09029374B2
A solution of tribromophosphine 1M in DCM (0.154 mL, 0.15 mmol) at 25° C., was added dropwise to N-(2-(dimethylamino)ethyl)-8-(1-hydroxyethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide (60 mg, 0.15 mmol) suspended in DCM (1 mL). This suspension was stirred at 25° C. for 4 days. The resulting precipitate was collected by filtration, washed with diethyl ether and dried to afford 8-(1-bromoethyl)-N-(2-(dimethylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (98 mg, >100%) as a white solid, which was used without further purification. Mass Spectrum: M+H+ 454.

reactant | tribromophosphine | 1M | BrP(Br)Br | Br3P
reactant | N-(2-(dimethylamino)ethyl)-8-(1-hydroxyethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 0.15 mmol, 60 mg | CN(CCNC(=O)C=1C=C2C(C=C(OC2=C(C1)C(C)O)N1CCOCC1)=O)C | C20H27N3O5
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.15 mmol, 0.154 mL | C(Cl)Cl | CH2Cl2
product | 8-(1-bromoethyl)-N-(2-(dimethylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 98 mg, >100% | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)NCCN(C)C | InChI=1S/C20H26BrN3O4.BrH/c1-13(21)15-10-14(20(26)22-4-5-23(2)3)11-16-17(25)12-18(28-19(15)16)24-6-8-27-9-7-24;/h10-13H,4-9H2,1-3H3,(H,22,26);1H
